US05185360
5,10-Dihydro-2-hydroxy-1,3-dimethylindeno[1,2-b]indole
5,10-Dihydro-2-methoxy-1,3-dimethylindeno[1,2-b]indole (2.4 g, 9.1 mmol) and pyridinium chloride (5.8 g) were mixed and heated to 200° C. for 30 minutes. The reaction mixture was cooled, and partitioned between ethyl acetate and water. The organic phase was washed three times with 2 M hydrochloric acid, and then three times with water, and then dried (MgSO4). The solvent was removed in vacuo, and the residue purified by column chromatography to give the title compound as colourless prisms. Yield: 1.5 g (66%). M.p. 190° C. (from dichloromethane). 1H NMR (DMSO-d6) δ: 2.25 (3H,s,), 2.26 (3H,s,), 3,50 (2H, s,), 6.9-7.5 (5H, m,), 8.16 (1H, br,), 11.33 (1H, br,).

reactant | 5,10-Dihydro-2-methoxy-1,3-dimethylindeno[1,2-b]indole | 9.1 mmol, 2.4 g | COC=1C(=C2CC3=C(NC=4C=CC=CC34)C2=CC1C)C | C18H17NO
reactant | pyridinium chloride | 5.8 g | [Cl-].[NH+]1=CC=CC=C1
product | 5,10-Dihydro-2-hydroxy-1,3-dimethylindeno[1,2-b]indole | OC=1C(=C2CC3=C(NC=4C=CC=CC34)C2=CC1C)C | C17H15NO
